US06599902B2
A mixture of carbobenzyloxy-L-proline (994 mg, 3.99 mmol), cyclopropylamine (0.41 mL, 5.9 mmol), HOBt (807 mg, 6 mmol), EDC (1.12 g, 5.9 mmol) and TEA (1.1 mL) in DMF (11 mL) was stirred at room temperature for 48 hours. The reaction was quenched with saturated sodium bicarbonate and extracted with dichloromethane. The organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was column chromatographed to give 985 mg (81%) of (S)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester.

reactant | carbobenzyloxy-L-proline | 3.99 mmol, 994 mg | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | cyclopropylamine | 5.9 mmol, 0.41 mL | C1(CC1)N | C3H7N
reactant | HOBt | 6 mmol, 807 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 5.9 mmol, 1.12 g
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | (S)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 985 mg, 81% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1CC1)=O | C16H20N2O3
